US04806562
A solution of methyl thieno[2,3-b]thiophene-2-carboxylate (19.8 g. 0.1 mol) in dry ether (75 mL) was added at a rapid drip rate (1 hour, 45 minutes) to a suspension of lithium aluminum hydride (7.59 g, 0.2 mol) in ether (500 mL) cooled in an ice-water bath. During the addition, precipitated material on the inside of the flask was kept suspended in the reaction medium. After the addition was complete stirring was continued at room temperature for 3 hours. The reaction mixture was cooled in an ice-water bath and there was added in succession, slowly, dropwise with vigorous stirring: water (7.6 ml); 20% aqueous NaOH (22.8 mL); water (7.6 mL); water (4 mL); 20sodium hydroxide (12 mL); water (4 ml). Vigorous stirring was continued until a granular precipitate was obtained. The ether was decanted and the solids were washed by decantation three times with ether. The combined ether fractions were dried (MgSO4), filtered, and evaporated in vacuo to leave 16.33 g of white, solid 2-hydroxymethylthieno[2,3-b]thiophene, m.p. 85°-87° C. Recrystallization from hexane gave material with m.p. 86°-87° C.

reactant | methyl thieno[2,3-b]thiophene-2-carboxylate | 0.1 mol, 19.8 g | S1C(=CC2=C1SC=C2)C(=O)OC | C8H6O2S2
reactant | lithium aluminum hydride | 0.2 mol, 7.59 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | ether | 75 mL | CCOCC | C4H10O
solvent | ether | 500 mL | CCOCC | C4H10O
product | 2-hydroxymethylthieno[2,3-b]thiophene | OCC1=CC2=C(SC=C2)S1 | C7H6OS2
